US04037036
A solution of butyl lithium in ether was obtained by reacting a solution consisting of 137 g of butyl bromide and 200 ml of ether with a suspension consisting of 17 g of lithium and 400 ml of ether by the use of the same apparatus as that used in Referential Example 1. This solution was added dropwise to 300 ml of an ether solution containing 180 g of 9-bromoacridine at 0°-5° C., and the mixture was then warmed gradually to room temperature and stirred for further 3 hours. To the mixture was added dropwise 322 g of p-iodostyrene diluted with 300 ml of ether in the presence of cobalt chloride with stirring in a nitrogen gas stream, and the mixture was then refluxed for 5 hours. The reaction mixture was poured onto hydrochloric acid-ice and stirred. The organic layer was extracted with ether, and the extract was dried over anhydrous sodium sulfate. The solvent was then distilled off to obtain yellowish white crystals. The crystals were purified by alumina column chromatography to obtain 75.6 g of 9-(p-vinylphenyl)acridine, yield 38.4%.

reactant | butyl bromide | 137 g | C(CCC)Br | C4H9Br
reactant | lithium | 17 g | [Li] | Li
reactant | 9-bromoacridine | 180 g | BrC=1C2=CC=CC=C2N=C2C=CC=CC12 | C13H8BrN
reactant | p-iodostyrene | 322 g | IC1=CC=C(C=C)C=C1 | C8H7I
solvent | ether | 300 ml | CCOCC | C4H10O
solvent | cobalt chloride | [Co](Cl)Cl
solvent | ether | 300 ml | CCOCC | C4H10O
solvent | ether | 400 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 9-(p-vinylphenyl)acridine | 75.6 g, yield 38.4% | C(=C)C1=CC=C(C=C1)C=1C2=CC=CC=C2N=C2C=CC=CC12 | C21H15N
